US05183820
6-Fluoro-2,5-dihydro-5-methyl-1H-pyrido[4,3-b]indol-1-one
A mixture of 6-fluoro-2,3,4,5-tetrahydro-5-methyl-1H-pyrido[4,3-b]indol-1-one (300 mg) and 10% palladium oxide on carbon catalyst (50% aqueous paste; 150 mg) in ethylene glycol (30 ml) was heated at reflux under nitrogen for 24 h. The cooled mixture was filtered and evaporated to give a solid (ca. 300 mg) which was purified by FCC eluting with System A (200:10:1) to give a solid (100 mg). A sample of this solid was further purified by HPLC on a Spherisorb 55W column, eluting with System A (95:5:0.5) at a flow rate of 15 ml/min to give the title compound, m.p. 294°-296°.

reactant | 6-fluoro-2,3,4,5-tetrahydro-5-methyl-1H-pyrido[4,3-b]indol-1-one | 300 mg | FC1=CC=CC=2C3=C(N(C12)C)CCNC3=O | C12H11FN2O
solvent | ethylene glycol | 30 ml | C(CO)O | C2H6O2
catalyst | palladium oxide | [Pd]=O
product | 6-Fluoro-2,5-dihydro-5-methyl-1H-pyrido[4,3-b]indol-1-one | ca. 300 mg | FC1=CC=CC=2C3=C(N(C12)C)C=CNC3=O | C12H9FN2O
